US07214798B2
2.2. 1-[4-(2-Chloroethyl)-1-piperidyl]isoquinoline
2.20 ml (30.10 mmol) of thionyl chloride are added dropwise to a solution of 3.09 g (12.10 mmol) of 2-[1-(1-isoquinolyl)-4-piperidyl]ethanol, prepared in step 2.1, in 30 ml of dichloromethane. The reaction mixture is then refluxed for 5 hours.

reactant | thionyl chloride | 30.10 mmol, 2.20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[1-(1-isoquinolyl)-4-piperidyl]ethanol | 12.10 mmol, 3.09 g | C1(=NC=CC2=CC=CC=C12)N1CCC(CC1)CCO | C16H20N2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-[4-(2-Chloroethyl)-1-piperidyl]isoquinoline | ClCCC1CCN(CC1)C1=NC=CC2=CC=CC=C12 | C16H19ClN2
